US05760059
1-tert-butoxycarbonyl-2-(3-nitrophenyl)hydrazine
To a solution of 3-nitrophenyl hydrazine (6 g) in dioxane (60 ml) and water (30 ml) were added sodium hydroxide 1M (30 ml) and di tert-butyl dicarbonate (7.6 g). The solution was stirred at 25° for 2 hrs then concentrated in vacuo; diluted in ethyl acetate (200 ml), washed with ammonium chloride (sat.) (2×200 ml), brine (2×200 ml), dried and concentrated in vacuo to give the crude intermediate which was purified by trituration with ethyl acetate/cyclohexane (19/29) to obtain the title compound (4.3 g,). T.I.c. EA/CH (1/1), Rf =0.85 m.p=105°.

reactant | 3-nitrophenyl hydrazine | 6 g | [N+](=O)([O-])C=1C=C(C=CC1)NN | C6H7N3O2
reactant | sodium hydroxide | 1M, 30 ml | [OH-].[Na+]
reactant | di tert-butyl dicarbonate | 7.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
product | 1-tert-butoxycarbonyl-2-(3-nitrophenyl)hydrazine | 4.3 g | C(C)(C)(C)OC(=O)NNC1=CC(=CC=C1)[N+](=O)[O-] | C11H15N3O4
